US09024032B2
3-(Benzyloxy)-5-bromo-1-(4-butylphenyl)pyridin-4(1H)-one (37 mg, 0.09 mmol) was treated with 1,1′-bis(diphenylphosphino)ferrocene dichloro palladium(II) dichloromethane complex (6.6 mg, 0.009 mmol) and cyclopropylzinc bromide (0.54 mL of a 0.5 M solution in THF, 0.27 mmol). The reaction vessel was purged with N2, sealed, and heated at 60° C. for 1 h, after which it was concentrated under a stream of N2 and purified by flash chromatography (4 g SiO2, 0-55% ethyl acetate/hexanes) to provide 3-(benzyloxy)-1-(4-butylphenyl)-5-cyclopropylpyridin-4(1H)-one. LC/MS (M+H)+ 374.

reactant | 3-(Benzyloxy)-5-bromo-1-(4-butylphenyl)pyridin-4(1H)-one | 0.09 mmol, 37 mg | C(C1=CC=CC=C1)OC1=CN(C=C(C1=O)Br)C1=CC=C(C=C1)CCCC | C22H22BrNO2
reactant | cyclopropylzinc bromide | [Br-].C1(CC1)[Zn+]
solvent | THF | C1CCOC1 | C4H8O
product | 3-(benzyloxy)-1-(4-butylphenyl)-5-cyclopropylpyridin-4(1H)-one | C(C1=CC=CC=C1)OC1=CN(C=C(C1=O)C1CC1)C1=CC=C(C=C1)CCCC | C25H27NO2
